### PR TITLE
Add Erdős Problem 113 (the Erdős–Simonovits 2-degenerate conjecture), link the formal disproof

### LINKED ISSUE #6197: Erdős Problem 113
### What is the Erdős problem?

https://www.erdosproblems.com/113

If $G$ is bipartite then $\mathrm{ex}(n;G)\ll n^{3/2}$ if and only if $G$ is $2$-degenerate, that is, $G$ contains no induced subgraph with minimal degree at least 3.

Status: disproved (Lean). The Erdős–Simonovits $500 conjecture, disproved by Janzer (a $3$-regular bipartite $H$ with $\mathrm{ex}(n;H) \ll n^{4/3+\epsilon}$); a formal disproof exists in plby/lean-proofs (`Erdos113.not_erdos_113`, Codex and GPT-5.6 Sol). The repository's `SimpleGraph.IsDegenerate` can be used.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6197.

### What changed
Adds `FormalConjectures/ErdosProblems/113.lean` with `erdos_113` (`research solved`, `answer(False)`): the Erdős–Simonovits $500 conjecture that a bipartite `G` has `ex(n; G) ≪ n^{3/2}` iff `G` is `2`-degenerate (house `SimpleGraph.IsDegenerate`). Disproved by Janzer [Ja23b]; linked to plby/lean-proofs `Erdos113.not_erdos_113` (Codex and GPT-5.6 Sol; 45 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos113.not_erdos_113` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `IsTwoDegenerate` is stated with `Set`s and `ncard`; the bridge shows it agrees with the house `IsDegenerate 2` on finite vertex types):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics SimpleGraph

namespace Bridge113

/-- The house `IsDegenerate 2` agrees with plby's `IsTwoDegenerate` on finite vertex types. -/
lemma degenerate_iff {V : Type} [Fintype V] (G : SimpleGraph V) :
    G.IsDegenerate 2 ↔ Erdos113Plby.IsTwoDegenerate G := by
  classical
  have key : ∀ (s : Finset V) (v : V),
      (G.neighborSet v ∩ (s : Set V)).ncard = (G.neighborsWithin s v).card := by
    intro s v
    have : G.neighborSet v ∩ (s : Set V) = ↑(G.neighborsWithin s v) := by
      ext x
      simp [SimpleGraph.neighborsWithin, and_comm]
    rw [this, Set.ncard_coe_finset]
  constructor
  · intro h S hS
    obtain ⟨v, hv, hcard⟩ := h S.toFinset (by simpa using hS)
    refine ⟨⟨v, by simpa using hv⟩, ?_⟩
    have := key S.toFinset v
    simp only [Set.coe_toFinset] at this
    rw [this]
    exact hcard
  · intro h s hs
    obtain ⟨⟨v, hv⟩, hcard⟩ := h (s : Set V) (by simpa using hs)
    refine ⟨v, hv, ?_⟩
    rw [← key]
    exact hcard

theorem erdos_113_bridge : type_of% Erdos113.erdos_113 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos113Plby.not_erdos_113
  intro V _ H hH
  rw [← degenerate_iff]
  exact h V H hH

end Bridge113
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«113»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/113.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/113.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
